US06117412
Trimethylsilyl chloride (1.9 ml, 15 mmol) was added dropwise to a stirred solution of 4-bromobenzyl alcohol (2.0 g, 11 mmol) in toluene (25 ml) and pyridine (2 ml) at 0° C. The stirred mixture was heated to ambient temperature during 3 hours. The reaction mixture was filtered and the organic solution evaporated to yield pure 4-bromobenzyl trimethylsilyl ether. The silyl ether can be further purified by distillation (b.p. 73° C., 0.1 mm Hg). Yield after distillation: 1.49 g (50%).

reactant | Trimethylsilyl chloride | 15 mmol, 1.9 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-bromobenzyl alcohol | 11 mmol, 2.0 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 4-bromobenzyl trimethylsilyl ether | C[Si](C)(C)OCC1=CC=C(C=C1)Br | C10H15BrOSi
